US07700638B2
7-(3-(1-Methoxyethyl)Phenyl)-1-phenyl-5-trifluoromethylbenzimidazole
To a stirred solution of 7-(3-(1-hydroxyethyl)phenyl)-1-phenyl-5-trifluoromethylbenzimidazole (0.9 g, 2.4 mmol) in anhydrous DMF (5 ml) was added sodium hydride (0.15 g 60% dispersion in mineral oil, 3.5 mmol) at ambient temperature. When the evolution of hydrogen had ceased iodomethane (0.25 ml, 2.6 mmol) was added and stirring was continued for 15 min. Four volumes of water was added and the resultant mixture was extracted with ethyl acetate. This extract was washed twice with aqueous calcium chloride (3M), dried over magnesium sulphate and evaporated under reduced pressure. The residue was eluted through silica gel with a mixture of ethyl acetate and petroleum ether (2:3, v/v). Trituration of the concentrated eluate in ligroin afforded the title product (0.35 g, 37%) m/z, 397.2 (M+H)+.

reactant | 7-(3-(1-hydroxyethyl)phenyl)-1-phenyl-5-trifluoromethylbenzimidazole | 2.4 mmol, 0.9 g | OC(C)C=1C=C(C=CC1)C1=CC(=CC2=C1N(C=N2)C2=CC=CC=C2)C(F)(F)F | C22H17F3N2O
reactant | sodium hydride | 3.5 mmol, 0.15 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | iodomethane | 2.6 mmol, 0.25 ml | IC | CH3I
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 7-(3-(1-Methoxyethyl)Phenyl)-1-phenyl-5-trifluoromethylbenzimidazole | 0.35 g, 37% | COC(C)C=1C=C(C=CC1)C1=CC(=CC2=C1N(C=N2)C2=CC=CC=C2)C(F)(F)F | C23H19F3N2O
